US06291682B1
3. Methyl 3-carboxyethylthio-2-methylbenzoate
70 g (0.38 mol) of methyl 3-thio-2-methylbenzoate are dissolved in 400 ml of water and refluxed for 7 hours together with 30.8 g (0.77 mol) of sodium hydroxide solution and 58.8 g (0.45 mol) of bromopropionic acid. After cooling, the aqueous phase is washed using methyl tert-butyl ether. The aqueous phase is subsequently acidified using 2N HCl, the precipitate which has formed is filtered off with suction and washed with water, and the product is dried.

reactant | methyl 3-thio-2-methylbenzoate | 0.38 mol, 70 g | CC1=C(C=CCC1=S)C(=O)OC | C9H10O2S
reactant | sodium hydroxide | 0.77 mol, 30.8 g | [OH-].[Na+]
reactant | bromopropionic acid | 0.45 mol, 58.8 g | BrC(C(=O)O)C | C3H5BrO2
solvent | water | 400 ml | O | H2O
product | Methyl 3-carboxyethylthio-2-methylbenzoate | C(=O)(O)CCSC=1C(=C(C(=O)OC)C=CC1)C | C12H14O4S
